US06562847B1
Step (a): 2-Chloro-3-bromo-5-(1-t-butoxycarbonyl 3-(R)-pyrrolidinyloxy)-pyridine
To 3.15 gm (12 mmol) of PPh3 in 100 mL of dry THF at −20° C. was added 1.89 mL (12 mmol) of DEAD dropwise. The solution was allowed to stir 10 min. at −20° C. After 10 min, a solution containing 1.87 gm (10 mmol) of 1-t-butoxycarbonyl-3-(R)-hydroxypyrrolidine in 20 mL of dry THF was added dropwise. The solution was again allowed to stir 10 min at −20° C. After 10 min, to the solution was added 2.08 gm (10 mmol) of 2-chloro-3-bromo-5-hydroxypyridine at once. The solution was allowed to stir at room temperature overnight. Next day, solvent was removed under reduced pressure. The crude product was purified by flash chromatography (3:1, hexane:ethyl acetate) to obtain 3.65 gm (65%) of a foamy residue: 1H NMR (300 MHz, CD3OD) δ8.05 (1H, d, J=2.5 Hz), 7.78 (1H, d, J=2.5 Hz), 5.09 (1H, s), 3.66-3.32 (4H, m), 2.18 (2H, m), 1.46 (9H, s).

reactant | PPh3 | 12 mmol, 3.15 gm | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 12 mmol, 1.89 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 1-t-butoxycarbonyl-3-(R)-hydroxypyrrolidine | 10 mmol, 1.87 gm | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)O | C9H17NO3
reactant | 2-chloro-3-bromo-5-hydroxypyridine | 10 mmol, 2.08 gm | ClC1=NC=C(C=C1Br)O | C5H3BrClNO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-Chloro-3-bromo-5-(1-t-butoxycarbonyl 3-(R)-pyrrolidinyloxy)-pyridine | 3.65 gm, 65% | ClC1=NC=C(C=C1Br)O[C@H]1CN(CC1)C(=O)OC(C)(C)C | C14H18BrClN2O3
